US04013647
In a manner similar to Example 1, 1-benzyl-1H-tetrazole-5-carbonyl chloride is condensed with 2-amino-6-(4-morpholinyl) benzamide to give 1-benzyl-N-[2-carbamoyl-3-(4-morpholinyl)phenyl] 1H-tetrazole-5-carboxamide.

reactant | 1-benzyl-1H-tetrazole-5-carbonyl chloride | C(C1=CC=CC=C1)N1N=NN=C1C(=O)Cl | C9H7ClN4O
reactant | 2-amino-6-(4-morpholinyl) benzamide | NC1=C(C(=O)N)C(=CC=C1)N1CCOCC1 | C11H15N3O2
product | 1-benzyl-N-[2-carbamoyl-3-(4-morpholinyl)phenyl] 1H-tetrazole-5-carboxamide | C(C1=CC=CC=C1)N1N=NN=C1C(=O)NC1=C(C(=CC=C1)N1CCOCC1)C(N)=O | C20H21N7O3
